US05326776
Ethyl 5-butylamino-1-methylpyrazole-4-carboxylate
To ethyl 5-amino-1-methylpyrazole-4-carboxylate (3.4476 g, 20.38 mmol) in dimethylformamide (60 mL) at 0° C. was added a solution of 1.0M sodium bis(trimethylsilyl)amide in tetrahydrofuran (20.5 mL, 20.5 mmol). After 1 hour, 1-iodobutane (2.50 mL, 22.0 mmol) was added and the reaction was stirred at ambient temperature for 20 hours. The mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (6×). The combined organic extracts were then washed with water (2×) and brine, dried over sodium sulfate, filtered and evaporated under reduced pressure. Chromatography of the residue on silica gel eluting with 20% ethyl acetate in hexane afforded 3.8754 g (84%) of the desired product as a oil. TLC (20% ethyl acetate/80% hexane) Rf =0.12. 1H NMR (CDCl3, 300 MHz) d 0.94 (t, 3H), 1.33 (t, 3H), 1.35-1.50 (m, 2 H), 1.53-1.65 (m, 2H), 3.25 (t, 2H), 3.77 (s, 3H), 4.25 (q, 2H), 5.60-5.80 (br, 1H), 7.62 (s, 1H). MS (DCl/NH3)m/e 226 (M+H)+.

reactant | ethyl 5-amino-1-methylpyrazole-4-carboxylate | 20.38 mmol, 3.4476 g | NC1=C(C=NN1C)C(=O)OCC | C7H11N3O2
reactant | sodium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 20.5 mmol, 20.5 mL | O1CCCC1 | C4H8O
reactant | 1-iodobutane | 22.0 mmol, 2.50 mL | ICCCC | C4H9I
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Ethyl 5-butylamino-1-methylpyrazole-4-carboxylate | 3.8754 g, 84% | C(CCC)NC1=C(C=NN1C)C(=O)OCC | C11H19N3O2
